US06448278B2
tert-Butyl (3R)-6-cyclohexyl-3-[3-(2-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanoate
A solution of (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid (Preparation 1) (300 mg, 1.00 mmol) in dichloromethane (15 ml) was treated sequentially with 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (192 mg, 1.00 mmol), 4-(dimethylamino)pyridine (125 mg, 1.02 mmol) and N-hydroxy-2-(2-pyridinyl)ethanimidamide (Chem.Pharm.Bull.; 21; 10; 1973; 2146-2160) (152 mg, 1.00 mmol). The resulting mixture was stirred at room temperature for 17 hours. The solvent was removed under reduced pressure and the residue was heated neat at 120° C. under a nitrogen atmosphere for 2 hours. The crude product was then purified by column chromatography on silica gel eluting with dichloromethane:methanol (99:1). The residue was further purified by column chromatography on silica gel eluting with ethyl acetate: pentane (30:70) to afford the title compound as an oil (107 mg).

reactant | (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid | 1.00 mmol, 300 mg | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.00 mmol, 192 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-hydroxy-2-(2-pyridinyl)ethanimidamide | 1.00 mmol, 152 mg | ONC(CC1=NC=CC=C1)=N | C7H9N3O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 1.02 mmol, 125 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl (3R)-6-cyclohexyl-3-[3-(2-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanoate | 107 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CC1=NC=CC=C1 | C24H35N3O3
